US04485140
(A) 1,3-bis(2-aminophenoxy)benzene
A mixture of 145.3 g of 1,3-bis(2-nitrophenoxy)benzene, 340 mL of butanol, 9 mL of triethylamine, and 1.7 g of 5% palladium on carbon was heated to 70° C. in a 1.0 liter stainless steel stirred autoclave and pressurized with hydrogen to 4.1 MPa. This pressure was maintained for 1 hour after the hydrogen uptake had ceased. The autoclave was cooled to room temperature and discharged. The product slurry redissolved on reheating; the solution was filtered through diatomaceous earth to remove the catalyst, cooled to room temperature, and the product precipitated with hexane. The precipitated product was recovered by filtration and vacuum dried at 70° C. The yield of 1,3-bis(2-aminophenoxy)benzene was 95.2 g (79%).

reactant | 1,3-bis(2-nitrophenoxy)benzene | 145.3 g | [N+](=O)([O-])C1=C(OC2=CC(=CC=C2)OC2=C(C=CC=C2)[N+](=O)[O-])C=CC=C1 | C18H12N2O6
reactant | butanol | 340 mL | C(CCC)O | C4H10O
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 1.7 g | [Pd] | Pd
solvent | triethylamine | 9 mL | C(C)N(CC)CC | C6H15N
product | 1,3-bis(2-aminophenoxy)benzene | NC1=C(OC2=CC(=CC=C2)OC2=C(C=CC=C2)N)C=CC=C1 | C18H16N2O2
